US04661438
Preparation of Bis(3,4-dimethoxyphenyl)ditelluride
3,4-Dimethoxyphenyltellurium trichloride (37.2 g=0.1 mole) was dissolved in absolute ethanol (500 ml), and the slightly turbid solution was filtered. To the rapidly stirred solution was added, at room temperature, 50% aqueous hypophosphorous acid (30 ml, ≃0.3 mole) as rapidly as possible. There was a brief appearance of a brown solution color, before the entire solution set to a mass of black fibrous crystals. The product was collected after 15 minutes by filtration using rubber dam to compact the highly solvated crystal mass. The product was washed with water and then air dried to yield 25.2 g, 95% of theory, black fibrous crystals, m.p. 134°-136° C. Recrystallization from isopropanol raised the m.p. to 136°-139° C. C, H and Te elemental analyses were in agreement with the structural formula.

reactant | 3,4-Dimethoxyphenyltellurium trichloride | 0.1 mole, 37.2 g | COC=1C=C(C=CC1OC)[Te](Cl)(Cl)Cl | C8H9Cl3O2Te
reactant | hypophosphorous acid | 0.3 mole, 30 ml | [PH2](=O)O | H3O2P
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | Bis(3,4-dimethoxyphenyl)ditelluride | COC=1C=C(C=CC1OC)[Te][Te]C1=CC(=C(C=C1)OC)OC | C16H18O4Te2
